US07119205B2
3-[4-(5-cyanopent-1-ynyl)phenyl]-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a solution of 3-(4-iodo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (60 mg, 0.15 mmol) in 1.5 mL DMF was added diethylamine (0.16 mL, 1.5 mmol), followed by copper(I) iodide (trace), Pd(PPh3)Cl2 (3.5 mg, 0.005 mmol), and triphenylphosphine (12 mg, 0.04 mmol). The resulting mixture was stirred at rt for 5 min, after which hex-5-ynenitrile (50 μL, 0.5 mmol) was added. The reaction was then heated to 90° C. using microwave reactor for 20 min, filtered, concentrated and purified by reverse phase HPLC to give the titled compound. MS (ESI) m/e 358 (M−H)+; 1H NMR (300 MHz, DMSO-d6): δ 1.82–1.91 (m, 2H), 2.56 (t, J=7.12 Hz, 2H), 2.65 (t, J=7.12 Hz, 2H), 6.67 (s, 1H), 7.31 (d, J=8.48 Hz, 2H) 7.43 (d, J=8.48, 2H), 10.80 (s, 1H).

reactant | 3-(4-iodo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 0.15 mmol, 60 mg | IC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7IN2O2S
reactant | diethylamine | 1.5 mmol, 0.16 mL | C(C)NCC | C4H11N
reactant | triphenylphosphine | 0.04 mmol, 12 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hex-5-ynenitrile | 0.5 mmol, 50 μL | C(CCCC#C)#N | C6H7N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | [Cu]I
product | 3-[4-(5-cyanopent-1-ynyl)phenyl]-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | C(#N)CCCC#CC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C20H13N3O2S
